US04625047
To a stirred solution of sodium (0.95 g, 0.0414 mole) in ethanol (75 ml) and ethyl acetoacetate (5.38 g, 0.0414 mole) was added [3-chloro-4-(2-methylene-1-oxobutyl)phenoxy]acetic acid (4.94 g, 0.0184 mole). The reaction mixture was heated at reflux for 3 hours. 1N sodium hydroxide (10 ml) and 55 ml of water was added and refluxing was continued for 11/2 hours, then the solvent was distilled at reduced pressure. The residue was acidified, extracted with ether, washed with water, dried over magnesium sulfate to give 4.1 g of [3-chloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid which melted at 138°-140° C. after recrystallization from butyl chloride and methanol.

reactant | sodium | 0.0414 mole, 0.95 g | [Na] | Na
reactant | ethyl acetoacetate | 0.0414 mole, 5.38 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | [3-chloro-4-(2-methylene-1-oxobutyl)phenoxy]acetic acid | 0.0184 mole, 4.94 g | ClC=1C=C(OCC(=O)O)C=CC1C(C(CC)=C)=O | C13H13ClO4
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 55 ml | O | H2O
product | [3-chloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 4.1 g | ClC=1C=C(OCC(=O)O)C=CC1C1=CC(CCC1CC)=O | C16H17ClO4
